US07531532B2
t-Butyl 4-[4-(4-amino-2-fluorophenoxy)pyridin-2-ylcarbamoyl]piperidine-1-carboxylate
To a solution of a crude product of t-butyl 4-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylcarbamoyl]piperidine-1-carboxylate (548 mg) in methanol (50 ml) was added 10% palladium carbon (100 mg), followed by stirring under a hydrogen atmosphere at room temperature for 2 hrs. The catalyst was filtered. The filtrate was concentrated under a reduced pressure to give a residue, which was then subjected to silica gel column chromatography (Fuji Silysia BW-300, eluent; hexane:ethyl acetate=1:1 to 1:2, then ethyl acetate) to provide a mixture of the starting material and the target compound. The mixture was dissolved in methanol (50 ml) again, and then 10% palladium carbon (100 mg) was added thereto, followed by stirring under a hydrogen atmosphere at room temperature for 2 hrs. The catalyst was filtered. The filtrate was concentrated under a reduced pressure to give a residue, which was then filtered by silica gel. The filtrate was concentrate under a reduced pressure to provide the titled compound (185 mg) as a yellow oil.

reactant | t-butyl 4-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylcarbamoyl]piperidine-1-carboxylate | 548 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C22H25FN4O6
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | t-Butyl 4-[4-(4-amino-2-fluorophenoxy)pyridin-2-ylcarbamoyl]piperidine-1-carboxylate | 185 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C22H27FN4O4
